US07816522B2
To a solution of 71 mg of Yb(OTf)3 in 4 ml of THF there were added 204 mg of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine, 247 mg of 5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxine-6-carbaldehyde, 250 mg of MS3A and 0.30 ml of trimethylsilyl cyanide under a nitrogen atmosphere, and the mixture was stirred overnight at room temperature. The reaction mixture was filtered through celite, and the celite was washed with ethyl acetate. The organic layer was concentrated under reduced pressure to give (5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxin-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile (crude product).

reactant | Yb(OTf)3 | 71 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine | 204 mg | CC1=NC(=NO1)C1=CC=C(C=C1)N | C9H9N3O
reactant | 5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxine-6-carbaldehyde | 247 mg | FC1=C(C=C(C=2OCCOC21)OC)C=O | C10H9FO4
reactant | trimethylsilyl cyanide | 0.30 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxin-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | FC1=C(C=C(C=2OCCOC21)OC)C(C#N)NC2=CC=C(C=C2)C2=NOC(=N2)C | C20H17FN4O4
